US06627651B1
To a mixture of 3,4-dipropoxybenzaldehyde (6.65 g) and methanol (90 ml) was added sodium borohydride (1.13 g) at 0° C. The resulting mixture was stirred at 0° C. for 30 minutes. The reaction mixture was mixed with water and was extracted with ethyl acetate. The organic layer was washed with an aqueous saturated solution of sodium chloride and was dried with anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to obtain 3,4-dipropoxybenzyl alcohol (6.22 g) as a yellow oily substance.

reactant | 3,4-dipropoxybenzaldehyde | 6.65 g | C(CC)OC=1C=C(C=O)C=CC1OCCC | C13H18O3
reactant | methanol | 90 ml | CO | CH4O
reactant | sodium borohydride | 1.13 g | [BH4-].[Na+]
solvent | water | O | H2O
product | 3,4-dipropoxybenzyl alcohol | 6.22 g | C(CC)OC=1C=C(CO)C=CC1OCCC | C13H20O3
